US04521428
By operating as described in Example 1, 5.7 g of 4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine are reacted with 5.2 g of 2-(2-chloroethyl)-6-methylpyridine hydrochloride in the presence of 7.5 ml of triethylamine in 60 ml of ethanol at reflux for 18 hours to obtain 3.5 g of 1-[2-(6-methyl-2-pyridyl)ethyl]-4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine hydrochloride; m.p. 207°-210° C.

reactant | 4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine | 5.7 g | FC(C=1C=C(C=CC1)C=1CCNCC1)(F)F | C12H12F3N
reactant | 2-(2-chloroethyl)-6-methylpyridine hydrochloride | 5.2 g | Cl.ClCCC1=NC(=CC=C1)C
reactant | triethylamine | 7.5 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-[2-(6-methyl-2-pyridyl)ethyl]-4-(3-trifluoromethylphenyl)-1,2,3,6-tetrahydropyridine hydrochloride | 3.5 g | Cl.CC1=CC=CC(=N1)CCN1CCC(=CC1)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C20H21F3N2.ClH/c1-15-4-2-7-19(24-15)10-13-25-11-8-16(9-12-25)17-5-3-6-18(14-17)20(21,22)23;/h2-8,14H,9-13H2,1H3;1H
